US07214673B2
3-Methyl-11-(4-methyl-piperazin-1-yl)-3-methyl-5H-dibenzo[b,e][1,4]diazepine
Combine 3-methyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride (636.4 mg, 2.85 mmol), N-methylpiperazine (444.2 mg, 3.08 mmol), N,N-diisopropylethylamine (856.5 mg, 8.55 mmol), DMSO (2.0 ml), and toluene (4.0 ml). Stir and heat the mixture at 110° C. After 48 hours, add one drop of 5N HCl. After 72 hours, cool the mixture to ambient temperature and then dilute it with ethyl acetate. Wash the organic layer with DI H2O and brine. Dry (sodium sulfate) and concentrate the organic layer to residue. Purify the residue on silica gel using dichloromethane/methanol (90:10) to give 362.9 mg (42%) of a tan foam: mp 84°, dec; mass spectrum (ion spray): m/z=307.1 (M+1).

reactant | 3-methyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 2.85 mmol, 636.4 mg | Cl.CC=1C=CC2=C(NC3=C(N=C2N)C=CC=C3)C1
reactant | N-methylpiperazine | 3.08 mmol, 444.2 mg | CN1CCNCC1 | C5H12N2
reactant | N,N-diisopropylethylamine | 8.55 mmol, 856.5 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMSO | 2.0 ml | CS(=O)C | C2H6OS
catalyst | HCl | 5N, one drop | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 4.0 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methyl-11-(4-methyl-piperazin-1-yl)-3-methyl-5H-dibenzo[b,e][1,4]diazepine | 362.9 mg, 42% | CC1(CC=C2C(NC3=C(N=C2N2CCN(CC2)C)C=CC=C3)=C1)C | C20H26N4
